US07772234B2
Step D: Preparation of 7-(4-bromo-2-chlorophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylic acid methyl ester.
A mixture of 5-acetyl-2-(4-bromo-2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester (288 mg, 0.688 mmol) and formamidine acetate (77 mg, 0.74 mmol) in DMA (7 mL) was heated for 4 hours at 95° C. Additional 10 mg (0.096 mmol) of formamidine acetate was added and the reaction mixture was heated for additional 4 hours at 95° C. The reaction mixture was diluted with EtOAc, and washed with water (3×). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give the crude material which was purified by silica gel flash column chromatography (100% CH2Cl2 to 1% MeOH in CH2Cl2) to afford the desired product (140 mg, 48%).

reactant | 5-acetyl-2-(4-bromo-2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 0.688 mmol, 288 mg | COC(C1=C(C(=C(C(=C1)C(C)=O)F)F)NC1=C(C=C(C=C1)Br)Cl)=O | C16H11BrClF2NO3
reactant | formamidine acetate | 0.74 mmol, 77 mg | C(C)(=O)O.C(=N)N
reactant | formamidine acetate | 0.096 mmol, 10 mg | C(C)(=O)O.C(=N)N
solvent | DMA | 7 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(4-bromo-2-chlorophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylic acid methyl ester | 140 mg, 48% | COC(=O)C=1C=C2C(=NC=NC2=C(C1NC1=C(C=C(C=C1)Br)Cl)F)C | C17H12BrClFN3O2
